US04780468
A solution of n-butyl lithium (2.6M in hexanes, 9.6 mL, 25 mmol) was added dropwise through an addition funnel over 15 minutes to a solution of 1-bromo-2,4,5-trifluoro-3-(trifluoromethyl)benzene (7.00 g, 25 mmol) in ether (100 mL) stirred under N2 at -78°. After 5 minutes the rxn mixture was rapidly blown by catheter onto a suspension of dry ice (100 g) in ether (100 mL). After 5 minutes TFA (2 mL) was added to this. When the solution had warmed up to 20° C., it was washed with diluted HCl (0.5M, 20 mL), and extracted with dilute base (0.5N, 2×50 mL). The combined basic extracts were washed with ether (25 mL), made acidic with concentrated HCl (≈4 mL) and extracted with ether (3×50 mL). The combined ethereal extracts were washed with water (50 mL), saturated brine (50 mL) and dried (MgSO 4). The solvent was removed under reduced pressure to give 2,4,5-trifluoro-3-(trifluoromethyl)benzoic acid (4.21 g, 69%) as white microscopic needles; mp 87°-90° C. Nmr (CDCl3) δ 11.80 (1H, br s, OH), 8.05 (1H, d of t, Jd =6 Hz, Jt =9 Hz, aromatic). IR (KBr) 1721, 1636, 1511, 1464, 1424, 1328, 1256, 1154, 928 cm-1. M⊕ 244 (56).

reactant | n-butyl lithium | 25 mmol, 2.6M, 9.6 mL | C(CCC)[Li]
reactant | 1-bromo-2,4,5-trifluoro-3-(trifluoromethyl)benzene | 25 mmol, 7.00 g | BrC1=C(C(=C(C(=C1)F)F)C(F)(F)F)F | C7HBrF6
reactant | dry ice | 100 g | C(=O)=O | CO2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2,4,5-trifluoro-3-(trifluoromethyl)benzoic acid | 4.21 g, 69% | FC1=C(C(=O)O)C=C(C(=C1C(F)(F)F)F)F | C8H2F6O2
